US07435815B2
N-Ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid with ethyl-pyridin-2-ylmethyl-amine

reactant | [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
reactant | ethyl-pyridin-2-ylmethyl-amine | C(C)NCC1=NC=CC=C1 | C8H12N2
product | N-Ethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-N-pyridin-2-ylmethyl-acetamide | C(C)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CC1=NC=CC=C1 | C24H27N3O4S
